US06376707B1
To a solution of ethyl 2-[4-(2-hydroxyethyl)-phenoxy]acetate (7.3 g) in ethyl acetate (22 mL) was added triethylamine (5.9 mL) at room temperature under a nitrogen atmosphere, and the mixture was stirred. Methanesulfonyl chloride (2.8 mL) was added dropwise to the mixture at 0-15° C. of internal temperature, and the mixture was stirred at room temperature for 30 minutes. After water was added to the reaction mixture, the aqueous layer was separated and extracted with ethyl acetate. The combined organic layers were washed with a saturated aqueous sodium bicarbonate solution and brine, and dried over anhydrous magnesium sulfate. After the solvent was removed under reduced pressure, ethyl acetate (8.6 mL) and 2-propanol (23 mL) were added to the residue, and the mixture was heated to dissolve. After cooling to room temperature, the resulting crystals were collected by filtration to give ethyl 2-[4-(2-methanesulfonyloxyethyl)-phenoxy]acetate (7.2 g).

reactant | ethyl 2-[4-(2-hydroxyethyl)-phenoxy]acetate | 7.3 g | OCCC1=CC=C(OCC(=O)OCC)C=C1 | C12H16O4
reactant | triethylamine | 5.9 mL | C(C)N(CC)CC | C6H15N
reactant | Methanesulfonyl chloride | 2.8 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | O | H2O
solvent | ethyl acetate | 22 mL | C(C)(=O)OCC | C4H8O2
product | ethyl 2-[4-(2-methanesulfonyloxyethyl)-phenoxy]acetate | 7.2 g | CS(=O)(=O)OCCC1=CC=C(OCC(=O)OCC)C=C1 | C13H18O6S
